US06867198B2
3-(6-(tert-butoxycarbonyl)-4,5-dihydro-6H-[1,4]diazepino[6,7,1-hi]indol-1-yl)-4-(6-fluoro-1H-indol-3-yl)pyrrole-2,5-dione
Beginning with (6-(tert-butoxycarbonyl)-4,5-dihydro-6H-[1,4]diazepino[6,7,1-hi]indol-1-yl)oxoacetic acid methyl ester and 6-fluoroindole-3-acetamide, the title compound was prepared essentially as described in EXAMPLE 133.

reactant | (6-(tert-butoxycarbonyl)-4,5-dihydro-6H-[1,4]diazepino[6,7,1-hi]indol-1-yl)oxoacetic acid methyl ester | COC(C(=O)C1C=NCC=2CC(C=C3C=CN1C23)C(=O)OC(C)(C)C)=O | C19H22N2O5
reactant | 6-fluoroindole-3-acetamide | FC1=CC=C2C(=CNC2=C1)CC(=O)N | C10H9FN2O
product | 3-(6-(tert-butoxycarbonyl)-4,5-dihydro-6H-[1,4]diazepino[6,7,1-hi]indol-1-yl)-4-(6-fluoro-1H-indol-3-yl)pyrrole-2,5-dione | C(C)(C)(C)OC(=O)C1C=C2C=CN3C2=C(C1)CN=CC3C=3C(NC(C3C3=CNC1=CC(=CC=C31)F)=O)=O | C28H25FN4O4
